US07109354B2
b) 4-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid tert-butyl ester
The procedure used in Example 3: step b was followed using 2-iodo-3-methyl-benzoic acid tert-butyl ester ((Example 4: step a) 960 mg, 3 mmol), PdCl2(PPh3)2 (126 mg, 0.18 mmol), triethylamine (1.25 mL, 9 mmol), and 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (660 μL, 4.5 mmol) in dioxane (12 mL) at a reaction temperature of 80° C. Analogous aqueous workup and purification by SiO2 flash chromatography yielded the title compound (618 mg, 64%). 1H-NMR (CDCl3): δ 7.67 (m, 1H), 7.25 (m, 2H), 2.43 (s, 3H), 1.57 (m, 9H), 1.44 (m, 12H).

reactant | 2-iodo-3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)C)I)=O | C12H15IO2
reactant | triethylamine | 9 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 4.5 mmol, 660 μL | CC1(OBOC1(C)C)C | C6H13BO2
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.18 mmol, 126 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid tert-butyl ester | 618 mg, 64% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C18H27BO4
